US07629375B2
N-(4 -bromobenzenesulfonyl)morpholine (1.0 g, 3.266 mmol) was mixed with (n-Bu)4NBr (TBAB, 1.05 g, 3.266 mmol), K2CO3 (0.451 g, 3.266 mmol) and LiCl (0.1384 g, 3.266 mmol under argon atmosphere. Then dry DMF (25 mL) and 3,4-di(methoxymethoxy)styrene (0.7324 g, 3.226 mmol) were added, followed by the catalyst Pd(OAc)2 (73 mg, 0.3266 mmol). The mixture was heated between 80-90° C. under argon atmosphere for 24 hours. After removal of the DMF solvent, the residue obtained was loaded to a silica gel column with CH2Cl2 as solvent. The column was eluted with CH2Cl2/EtOAc (2:1, v/v) to yield 1.205 g of N-{4-[2-(3,4-di(methoxymethoxy)phenyl)-trans-vinyl]benzenesulfonyl}morpholine as a yellowish solid (2.6805 mmol, yield 82.1%). 1H NMR (CDCl3, 300.16 MHz) δ (ppm) 7.72 (d, J=8.5 Hz, 2H), 7.64 (d, J=8.5 Hz, 2H), 7.38 (d, J=1.7 Hz, 1H), 7.20-7.13 (m, 3H), 7.00 (d, J=16.2 Hz, 1H), 5.30 (s, 2H), 5.27 (s, 2H), 3.77-3.74 (m, 4H), 3.56 (s, 3H), 3.53 (s, 3H) and 3.04-3.01 (m, 4H). MS (ESI) m/z: 450 (M+1)+ and 472 (M+23)+.

reactant | N-(4 -bromobenzenesulfonyl)morpholine | 3.266 mmol, 1.0 g | BrC1=CC=C(C=C1)S(=O)(=O)N1CCOCC1 | C10H12BrNO3S
reactant | K2CO3 | 3.266 mmol, 0.451 g | C(=O)([O-])[O-].[K+].[K+]
reactant | LiCl | [Li+].[Cl-]
reactant | 3,4-di(methoxymethoxy)styrene | 3.226 mmol, 0.7324 g | COCOC=1C=C(C=C)C=CC1OCOC | C12H16O4
catalyst | (n-Bu)4NBr | 3.266 mmol, 1.05 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 0.3266 mmol, 73 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | N-{4-[2-(3,4-di(methoxymethoxy)phenyl)-trans-vinyl]benzenesulfonyl}morpholine | 2.6805 mmol, 1.205 g, yield 82.1% | COCOC=1C=C(C=CC1OCOC)/C=C/C1=CC=C(C=C1)S(=O)(=O)N1CCOCC1 | C22H27NO7S
